US06310213B1
(R)-3,3,3-trifluoro-2-methoxy-2-phenyl-propionic acid (3S,4S)-1,4-dibenzyl-piperidin-3-yl ester
The title compound was prepared from (3SR,4SR)-1,4-dibenzyl-piperidin-3-ol and (S)-(+) -alpha-methoxy-alpha-trifluoromethylphenylacetyl chloride in 29% yield as a yellow oil.

reactant | (3SR,4SR)-1,4-dibenzyl-piperidin-3-ol | C(C1=CC=CC=C1)N1CC(C(CC1)CC1=CC=CC=C1)O | C19H23NO
reactant | (S)-(+) -alpha-methoxy-alpha-trifluoromethylphenylacetyl chloride | CO[C@](C(=O)Cl)(C(F)(F)F)C1=CC=CC=C1 | C10H8ClF3O2
product | (R)-3,3,3-trifluoro-2-methoxy-2-phenyl-propionic acid (3S,4S)-1,4-dibenzyl-piperidin-3-yl ester | 29% yield | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)CC1=CC=CC=C1)OC([C@@](C(F)(F)F)(C1=CC=CC=C1)OC)=O | C29H30F3NO3
